US04968829
To prewashed sodium hydride (1.01 g, 42.0 mmol) in 60 ml of DMF at 20° is added 4-(1-methylpropoxy)phenol (7.0 g, 42.0 mmol) in 5 ml of DMF over 30 min. After 1 hour at RT, chloroacetonitrile (3.80 g, 50.4 mmol) in 5 ml of DMF is added dropwise to the mixture at 5°-8° over 15 min. After addition, the reaction is warmed slowly to RT and stirred at RT for 18 hours. The mixture is then poured into ice water and ether and extracted with ether (3×) The combined organic phases are washed with 10% NaOH, with water until neutral and with brine, dried, filtered and solvent removed in vacuo to give 4-(1-methylpropoxy)phenoxyacetonitrile.

reactant | sodium hydride | 42.0 mmol, 1.01 g | [H-].[Na+]
reactant | 4-(1-methylpropoxy)phenol | 42.0 mmol, 7.0 g | CC(CC)OC1=CC=C(C=C1)O | C10H14O2
reactant | chloroacetonitrile | 50.4 mmol, 3.80 g | ClCC#N | C2H2ClN
reactant | ether | CCOCC | C4H10O
solvent | DMF | 60 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(1-methylpropoxy)phenoxyacetonitrile | CC(CC)OC1=CC=C(OCC#N)C=C1 | C12H15NO2
